US05049558
N.m.r. in solvent B: 5.42 (s, 2H), 7.17 (s, 1H), 7.67 (s, 2H). 11. A suspension of the product from Footnote 10 (4.4 mM) in DMF (40 μl. at 0° C. was dissolved by the addition of 3M HCl in ether (8.8 mM). N-hydroxybenzotriazole (4.4 mM) and t-butyl 7-amino-3-azidomethyl-ceph-3-em-4-carboxylate (4.0 mM) were added to the solution, followed by dropwise addition of a solution of DCCI (4.4 mM) in CH3CN (15 ml.) during 20 minutes. The mixture was left t stir for 23 hours at 0° C. and 1 hour at room temperature. The precipitate was filtered, washed with DMF (3 ml.) and the residue evaporated to dryness. Trituration at 0° C. with aqueous NaHCO3 (5%) yielded a yellow solid which was treated at room temperature with TFA/H2O (15:1) during 2 hours. Evaporation to dryness and purification of the residue by chromatography on Dianion HP 20 resin gave the required product. 12. N.m.r. in solvent B: 3.6 (m, 2H), 4.2 (dd, 2H), 5.25 (d, 1H), 5.5 (s, 2H), 5.9 (d, 1H), 7.25 (s, 1H) 7.7 (s, 2H). 13. This molecule is not tritylated on the 14. The starting material was prepared by condensation of O-(2,2,2-trifluoroethyl)hydroxylamine with 2-(2-aminothiazol-4-yl)glyoxylic acid to give 2-(2-aminothiazol-4-yl)-2-[(Z)-2,2,2-trifluoroethoxyimino]acetic acid.

reactant | O-(2,2,2-trifluoroethyl)hydroxylamine | FC(CON)(F)F | C2H4F3NO
reactant | 2-(2-aminothiazol-4-yl)glyoxylic acid | NC=1SC=C(N1)C(C(=O)O)=O | C5H4N2O3S
product | 2-(2-aminothiazol-4-yl)-2-[(Z)-2,2,2-trifluoroethoxyimino]acetic acid | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(F)(F)F | C7H6F3N3O3S
